US05292739
Preparation of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]-butyl}pyrrole
A mixture of 4.14 g (20 mmol) of 1-[4-(piperazinyl)-butyl)pyrrole, 2.29 g (20 mmol) of 2-chloropyrimidine and 4.1 g (30 mmol) of potassium carbonate in 60 ml of dimethylformamide is refluxed for 5 hours. The reaction mixture is evaporated under vacuum, chloroform is added and the mixture is washed with water, dried over sodium sulphate and evaporated under vacuum and 3.3 g of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]-butyl}pyrrole are obtained in the form of a liquid.

reactant | 1-[4-(piperazinyl)-butyl)pyrrole | 20 mmol, 4.14 g | N1(CCNCC1)CCCCN1C=CC=C1 | C12H21N3
reactant | 2-chloropyrimidine | 20 mmol, 2.29 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 30 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]-butyl}pyrrole | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C=CC=C1 | C16H23N5
